US06323206B1
Preparation of 4-(4-Chlorophenyl)-1-[3-(6,11-dihydrodibenzo[b,e]thiepin-11-yl)propyl]piperidin-4-ol
To a solution of 4-(4-chlorophenyl)-1-[3-(11-cyano-6,11- dihydrodibenzo[b,e]thiepin-11-yl)propyl]piperidin-4-ol (430mg) in THF 10ml) was added 1M lithium aluminum hydride THF solution (1.5 ml) and the mixture was heated to reflux for 3 hours. The reaction mixture was cooled with ice, water (0.06 ml), then 15% aqueous sodium hydroxide (0.06 ml), then water (0.18 ml) were added carefully. The granular salt was filtered off and the filtrate was distilled off under reduced pressure. The residue was purified by silica gel chromatography eluting with ethyl acetate-hexane (1:1) to give the titled compound (280mg). 1H-NMR (CDCl3) d: 1.55-1.80(4H,m), 2.03-2.16(2H,m), 2.25-2.52(6H,m), 2.72-2.80(2H,m), 3.90(1H,brs), 4.48(1H,brt), 4.68(1H,brs), 6.96-7.45(12H,m). MS m/z: 464(M+1)

reactant | 4-(4-chlorophenyl)-1-[3-(11-cyano-6,11- dihydrodibenzo[b,e]thiepin-11-yl)propyl]piperidin-4-ol | 430mg | ClC1=CC=C(C=C1)C1(CCN(CC1)CCCC1(C2=C(SCC3=C1C=CC=C3)C=CC=C2)C#N)O | C29H29ClN2OS
reactant | water | 0.06 ml | O | H2O
reactant | sodium hydroxide | 0.06 ml | [OH-].[Na+]
reactant | water | 0.18 ml | O | H2O
solvent | THF | 10ml | C1CCOC1 | C4H8O
product | 4-(4-Chlorophenyl)-1-[3-(6,11-dihydrodibenzo[b,e]thiepin-11-yl)propyl]piperidin-4-ol | 280mg | ClC1=CC=C(C=C1)C1(CCN(CC1)CCCC1C2=C(SCC3=C1C=CC=C3)C=CC=C2)O | C28H30ClNOS
